US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 1H-pyrazole-4-boronic acid to give (5-methyl-1H-pyrazol-3-yl)-[1-(1H-pyrazol-4-yl)-isoquinolin-3-yl]-amine. LC-MS m/e 291 (MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
reactant | 1H-pyrazole-4-boronic acid | N1N=CC(=C1)B(O)O | C3H5BN2O2
product | (5-methyl-1H-pyrazol-3-yl)-[1-(1H-pyrazol-4-yl)-isoquinolin-3-yl]-amine | CC1=CC(=NN1)NC=1N=C(C2=CC=CC=C2C1)C=1C=NNC1 | C16H14N6
